US04900728
A solution of 4 ml of chloroacetaldehyde in 20 ml of demineralized water was cooled and a solution of 2.14 g of benzylamine in 10 ml of water was added thereto with stirring. After stirring for 5 minutes at 10° to 15° C., a gum was obtained and a turbid solution which was extracted with 30 ml and then with 20 ml of benzene. The organic solution was dried, filtered, rinsed and the filtrate was evaporated to dryness under vacuum to obtain 3.34 g of 2chloro-N-benzylethanimine which was used as is for the next step.

reactant | chloroacetaldehyde | 4 ml | ClCC=O | C2H3ClO
reactant | benzylamine | 2.14 g | C(C1=CC=CC=C1)N | C7H9N
solvent | water | 20 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 2chloro-N-benzylethanimine | 3.34 g | ClCC=NCC1=CC=CC=C1 | C9H10ClN
